US05401732
2-(6-Bromo-2-methyl-2-hexyloxy)-tetrahydro-4H-pyran
To a stirred, ice-cooled solution of ethyl 5-bromopentanoate (18.7 ml) in dried ether (100 ml) was added dropwise over 1 hour a filtered solution of Grignard reagent, prepared from magnesium (10 g) and methyl iodide 25 ml) in dried ether (200 ml). After a further 30 minutes on the ice-bath, the reaction mixture was allowed to warm to room temperature over 30 minutes before being poured onto a stirred, ice-cooled solution of ammonium chloride (30 g) in water (200 ml). After the vigorous reaction had subsided, the ether layer was separated, and the aqueous layer was extracted with more ether. The combined ether layers were washed consecutively with water and saturated aqueous sodium chloride, dried, and concentrated in vacuo to give the crude intermediate (6-bromo-2-methyl-2-hexanol) as a pale yellow oil. This was dissolved in dichloromethane (100 ml), then 3,4-dihydro-2H-pyran (8.9 ml) and pyridinium p-toluenesulfonate (0.8 g) were added at room temperature. After 1 hour, the reaction solution was diluted with ether (250 ml) and extracted consecutively with saturated aqueous sodium hydrogen carbonate (150 ml), water (100 ml) and saturated aqueous sodium chloride (100 ml). After drying and removal of the solvent in vacuo, the product was purified by chromatography (150 g silica gel, 10% ether in petroleum ether as eluant) to give the desired compound as a colourless oil.

reactant | ethyl 5-bromopentanoate | 18.7 ml | BrCCCCC(=O)OCC | C7H13BrO2
reactant | magnesium | 10 g | [Mg] | Mg
reactant | methyl iodide | 25 ml | CI | CH3I
reactant | ammonium chloride | 30 g | [Cl-].[NH4+]
reactant | 3,4-dihydro-2H-pyran | 8.9 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 200 ml | CCOCC | C4H10O
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(6-Bromo-2-methyl-2-hexyloxy)-tetrahydro-4H-pyran | BrCCCCC(C)(OC1OCCCC1)C | C12H23BrO2
